US04221737
1-Nitro-2-(2-propynylamino)-2-{2-[(4-methyl-1H-imidazol-5-yl)methylthio]propylamino}ethylene
When 3-[(4-methyl-1H-imidazol-5-yl)methylthio]propylamine [prepared according to the procedure described in Belgian Pat. No. 804,144] is reacted with 1,1-bis(methylthio)-2-nitroethylene according to the procedure of Example 6, Step A, and the resultant 1-nitro-2-methylthio-2-{3-[(4-methyl-1H-imidazol-5-yl)methylthio]propylamino}ethylene is treated with propargylamine by the procedure of Example 6, Step B, the title compound is produced.

reactant | 3-[(4-methyl-1H-imidazol-5-yl)methylthio]propylamine | CC=1N=CNC1CSCCCN | C8H15N3S
reactant | 1,1-bis(methylthio)-2-nitroethylene | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
reactant | 1-nitro-2-methylthio-2-{3-[(4-methyl-1H-imidazol-5-yl)methylthio]propylamino}ethylene | [N+](=O)([O-])C=C(NCCCSCC1=C(N=CN1)C)SC | C11H18N4O2S2
reactant | propargylamine | C(C#C)N | C3H5N
product | 1-Nitro-2-(2-propynylamino)-2-{2-[(4-methyl-1H-imidazol-5-yl)methylthio]propylamino}ethylene | [N+](=O)([O-])C=C(NCC(C)SCC1=C(N=CN1)C)NCC#C | C13H19N5O2S
